US07906517B2
Ethyl 6-[(2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-hydroxy-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-ethyl-amino]-hexanoate (120 mg) is dissolved in tetrahydrofuran (1 ml), and thereto are added 2-methoxyethanol (21 μl) and triphenylphosphine (69 mg), and thereto is added dropwise 40% diethyl azodicarboxylate in toluene (115 μl) under water-cooling, and the mixture is stirred at room temperature for 1 hour. To the reaction mixture is added a saturated brine, and the mixture is extracted with ethyl acetate. The organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by NH-silica gel column chromatography (hexane:ethyl acetate=6:1) to give ethyl 6-{[2-({(3,5-bis-trifluoromethyl-benzyl)-[5-(2-methoxy-ethoxy)-pyrimidin-2-yl]-amino}-methyl)-4-trifluoromethyl-phenyl]-ethyl-amino}-hexanoate (120 mg). MS (m/z): 739 [M+H]+

reactant | Ethyl 6-[(2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-hydroxy-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-ethyl-amino]-hexanoate | 120 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)O)CC2=C(C=CC(=C2)C(F)(F)F)N(CCCCCC(=O)OCC)CC)C=C(C1)C(F)(F)F)(F)F | C31H33F9N4O3
reactant | 2-methoxyethanol | 21 μl | COCCO | C3H8O2
reactant | triphenylphosphine | 69 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | toluene | 115 μl | C1(=CC=CC=C1)C | C7H8
solvent | brine | [Cl-].[Na+].O
product | ethyl 6-{[2-({(3,5-bis-trifluoromethyl-benzyl)-[5-(2-methoxy-ethoxy)-pyrimidin-2-yl]-amino}-methyl)-4-trifluoromethyl-phenyl]-ethyl-amino}-hexanoate | 120 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)OCCOC)CC2=C(C=CC(=C2)C(F)(F)F)N(CCCCCC(=O)OCC)CC)C=C(C1)C(F)(F)F)(F)F | C34H39F9N4O4
